US06677349B1
Triethylamine (1.1 g, 10.6 mmol) was added with stirring to a solution of 3-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propylamine (2.00 g, 7.08 mmol) in dichloromethane (˜150 mL). Methanesulfonyl chloride (892 mg, 7.79 mmol) was added and the reaction was stirred under nitrogen overnight. The reaction mixture was washed with aqueous 1% sodium bicarbonate solution (3×50 mL). The aqueous washes were extracted with dichloromethane (2×20 mL). The organics were combined, dried over magnesium sulfate and then concentrated under reduced pressure to provide 1.89 g of N-[3-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]methanesulfonamide as a light brown solid.

reactant | Triethylamine | 10.6 mmol, 1.1 g | C(C)N(CC)CC | C6H15N
reactant | 3-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propylamine | 7.08 mmol, 2.00 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCN | C17H22N4
reactant | Methanesulfonyl chloride | 7.79 mmol, 892 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ˜150 mL | ClCCl | CH2Cl2
product | N-[3-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]methanesulfonamide | 1.89 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCNS(=O)(=O)C | C18H24N4O2S
